* C:\Users\doug_000\Documents\GitHub\PiCluster\Electronics\FanCtrlr.asc
V1 N004 0 PULSE(0 12 0 0 0 8u 100u)
D1 N004 N005 D
R1 N006 N005 10K
C1 N006 0 10µ
R2 0 N006 10K
R3 N002 0 100
V2 N001 0 12
Q1 N001 N003 N002 0 PNP
Q2 N003 N007 N008 0 NPN
R4 N007 N006 10K
R5 N001 N003 1K
R6 N008 0 10K
.model D D
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 1s
.backanno
.end
